US08048887B2
N-(2-(4-Fluorophenyl)-5-isopropoxy-3-(1H-1,2,4-triazol-5-yl)benzofuran-6-yl)methanesulfonamide
Azidotrimethylsilane (34.2 μL, 0.257 mmol) was added to a stirring solution of dibutyltin oxide (6.41 mg, 0.026 mmol) and N-(3-cyano-2-(4-fluorophenyl)-5-isopropoxybenzofuran-6-yl)methanesulfonamide (50 mg, 0.129 mmol) in dioxane (1.3 mL) at rt. It was subjected to microwave irradiation for 15 min at 150° C. It was treated with additional equivalents of reagents and re-subjected for 30 min followed by 60 min. The mixture was concentrated and purified by preparative reverse phase HPLC on a C18 column using a suitably buffered gradient, and concentrated to give the titled compound (12 mg, 22%). 1H NMR (300 MHz, DMSO-d6) δ ppm 1.29-1.39 (m, 6H) 3.01 (s, 3H) 4.62-4.81 (m, 1H) 7.28-7.45 (m, 3H) 7.65 (s, 1H) 7.84-7.98 (m, 2H) 8.92 (s, 1H). LC-MS retention time: 1.04 min; m/z (MH+): 432. LC data was recorded on a Shimadzu LC-10AS liquid chromatograph equipped with a Waters XBridge 5u C18 4.6×50 mm column using a SPD-10AV UV-Vis detector at a detector wave length of 220 nM. The elution conditions employed a flow rate of 5 ml/min, a gradient of 100% solvent A/0% solvent B to 0% solvent A/100% solvent B, a gradient time of 2 min, a hold time of 1 min, and an analysis time of 3 min where solvent A was 5% acetonitrile/95% H2O/10 mM ammonium acetate and solvent B was 5% H2O/95% acetonitrile/10 mM ammonium acetate. MS data was determined using a MICROMASS® Platform for LC in electrospray mode. Additional HPLC method: Solvent A=5% CH3CN/95% H2O/0.1% TFA, Solvent B=95% CH3CN/5% H2O/0.1% TFA, Start % B=10, Final % B=100, Gradient time=15 min, Stop time=18 min, Flow Rate=1 ml/min. Column: Waters Sunfire C-18, 4.6×150 mm, 3.5 μm, Rt=11.56 min, purity=94%; Column: Waters XBridge phenyl column 4.6×150 mm, 3.5 μm, Rt=10.55 min, purity=96%.

reactant | Azidotrimethylsilane | 0.257 mmol, 34.2 μL | N(=[N+]=[N-])[Si](C)(C)C | C3H9N3Si
reactant | dibutyltin oxide | 0.026 mmol, 6.41 mg | C(CCC)[Sn](CCCC)=O
reactant | N-(3-cyano-2-(4-fluorophenyl)-5-isopropoxybenzofuran-6-yl)methanesulfonamide | 0.129 mmol, 50 mg | C(#N)C1=C(OC2=C1C=C(C(=C2)NS(=O)(=O)C)OC(C)C)C2=CC=C(C=C2)F | C19H17FN2O4S
solvent | dioxane | 1.3 mL | O1CCOCC1 | C4H8O2
product | N-(2-(4-Fluorophenyl)-5-isopropoxy-3-(1H-1,2,4-triazol-5-yl)benzofuran-6-yl)methanesulfonamide | 12 mg, 22% | FC1=CC=C(C=C1)C=1OC2=C(C1C1=NC=NN1)C=C(C(=C2)NS(=O)(=O)C)OC(C)C | C20H19FN4O4S
